**********************************************************
* THIS FILE IS GENERATED BY AIVALANCHE
* FILE ID: 0
* SIMULATION TYPE: dc_sweep
**********************************************************

* Define the temperature
.TEMP 27.0

* Include the dut file
.INCLUDE /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.5ce9039e-e488-419b-92e8-c95a713c4994/common/model_files/dut_1.cir

** Start testbenches

********************* dut testbench 0_0 *********************
e_v_0_0 p_0_0 0 v_sweep 0 1
v_meas_0_0 n_0_0 0 0
x_0_0 p_0_0 n_0_0 dut area=2e-06 m=1.0
*************************************************************

** End testbenches

* Declare the v_sweep, which will change during the simulation.
v_sweep v_sweep 0 0

********** Start of control section **********
.control

** Model parameters start
alterparam dut bv = 1365546.5741434845
alterparam dut ibv = 0.01437060806995956
alterparam dut ikf = 1.8858983857076668e-05
alterparam dut ikr = 3.315048802140216e-06
alterparam dut is = 5.5332074778216e-18
alterparam dut jsw = 6.7437642191974896e-18
alterparam dut n = 0.6569230185036313
alterparam dut nbv = 0.559909019865108
alterparam dut rs = 1.003064688303652e-06
alterparam dut trs1 = 0.004806850778638518
alterparam dut trs2 = 0.0005306749459113537
reset
** Model parameters end

** Declare the vectors to save.
save i(v_meas_0_0) v(p_0_0)

** Run the dc sweep analysis.
dc v_sweep -0.2 3.5 0.1

** Save the output to file.
set wr_vecnames
set wr_singlescale
wrdata /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.5ce9039e-e488-419b-92e8-c95a713c4994/models/model_1.0e00713a-4f68-42d4-9653-2a40c98c558f/calibration_26_07_2024-16_16_02/simulation_files/dc_sweep_0.csv i(v_meas_0_0) v(p_0_0)

.endc
********** End of control section **********

.end